US05298652
A mixture of 5.95 g of N-(3,5-dinitrobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester and 0.75 g of 10% palladium on carbon in 75 ml of THF was shaken under an initial hydrogen pressure of 54 psi in a Parr Hydrogenator until uptake ceased after 2.5 hours. The catalyst was removed by filtration and the filtrate was concentrated at reduced pressure to give 4.9 g of N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester as a yellow oil. The mass spectrum was compatible with the structure.

reactant | N-(3,5-dinitrobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | 5.95 g | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O | C15H17N3O9
catalyst | palladium on carbon | 0.75 g | [Pd] | Pd
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | N-(3,5-diaminobenzoyl)-N-(2-ethoxy-2-oxoethyl)glycine ethyl ester | 4.9 g | C(C)OC(CN(CC(=O)OCC)C(C1=CC(=CC(=C1)N)N)=O)=O | C15H21N3O5
